US06051573
1,S-Bis(4,4',4"-trichlorotrityl)-1,2,4-triazole-3-thiol (15)
The procedure of Example 5(b) was followed, using 1.26 g (3.47 mmol) of tris(4-chlorophenyl)methanol, 0.52 g (5.1 mmol) of 1,2,4-triazole-3-thiol, 4.0 mL of CH2Cl2 and 1.25 mL (10 mmol) of BF3 etherate. Isolation followed by flash chromatography (75 g SiO2, 40% EtOAc-hexanes) gave 0.51 g of the title compound, followed by 0.71 g of an unstable product that turned into the title compound upon standing in solution. A 0.44 g sample of the first-eluted material was recrystallized from MeOH giving 0.18 g of (15), m.p. 219°-221° C. (dec).

reactant | tris(4-chlorophenyl)methanol | 3.47 mmol, 1.26 g | ClC1=CC=C(C=C1)C(O)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C19H13Cl3O
reactant | 1,2,4-triazole-3-thiol | 5.1 mmol, 0.52 g | N1N=C(N=C1)S | C2H3N3S
reactant | BF3 | 10 mmol, 1.25 mL | B(F)(F)F | BF3
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
product | 1,S-Bis(4,4',4"-trichlorotrityl)-1,2,4-triazole-3-thiol | 0.51 g | ClC1=CC=C(C(C2=CC=C(C=C2)Cl)(C2=CC=C(C=C2)Cl)N2N=C(N=C2)SC(C2=CC=C(C=C2)Cl)(C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)C=C1 | C40H25Cl6N3S
